** sch_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_dram_replica/testbenches/xschem/dram_replica_tb_tran.sch
**.subckt dram_replica_tb_tran
vpulse WWL GND pulse(0 {VPWR} 50050n 1n 1n 10n 100u)
VPWR VPWR GND {VPWR}
vpulse1 WBL GND pulse(0 {VPWR} 50u 1n 1n 100n 400u)
vpulse3 RWL GND pulse(0 {VPWR} 150040n 1n 1n 30n 200u)
vpulse2 PreCh GND pulse({VPWR} 0 150008n 1n 1n 10n 200u)
x3 VPWR net39 GND net1 net2 net3 net4 net5 net6 net7 net8 net9 net10 net11 net12 net13 net14 net15 RWL WBL WWL PreCh net16 net17
+ net18 net19 net20 net21 net22 net23 net24 net25 net26 net27 net28 net29 net30 net31 net32 net33 net34 net35 net36 net37 net38 RBL
+ dram_replica
* noconn #net1
* noconn #net2
* noconn #net3
* noconn #net4
* noconn #net5
* noconn #net6
* noconn #net7
* noconn #net8
* noconn #net9
* noconn #net10
* noconn #net11
* noconn #net12
* noconn #net13
* noconn #net14
* noconn #net15
* noconn #net16
* noconn #net17
* noconn #net18
* noconn #net19
* noconn #net20
* noconn #net21
* noconn #net22
* noconn #net23
* noconn #net24
* noconn #net25
* noconn #net26
* noconn #net27
* noconn #net28
* noconn #net29
* noconn #net30
* noconn #net31
* noconn #net32
* noconn #net33
* noconn #net34
* noconn #net35
* noconn #net36
* noconn #net37
* noconn #net38
**** begin user architecture code


*.include ../../../netlist/pex/dramcell_c_magic_pex_3.spice
*.include heichips26_analog_project.save
.param VPWR=1.5
.csparam VPWR=VPWR
.param VAPWR=1.5
.csparam VAPWR=VAPWR
.param Vcm=VAPWR/2
.param temp=27
.param Cload=10p
.param Rload=1k
.param w=25u
.param l=0.13u
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-12 gmin=1e-12
.control
save all

* Operating Point Analysis
op
remzerovec
write dram_replica_tb_tran.raw
set appendwrite

* Transient Analysis
tran 10n 800u
write dram_replica_tb_tran.raw

unset appendwrite
set wr_vecnames
set wr_singlescale
*wrdata ../plot_simulations/data/dram_replica_tb_tran.txt

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ

**** end user architecture code
**.ends

* expanding   symbol:  dram_replica.sym # of pins=46
** sym_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_dram_replica/schematic/xschem/dram_replica.sym
** sch_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_dram_replica/schematic/xschem/dram_replica.sch
.subckt dram_replica VPWR VAPWR VGND rst_n clk ena uio_in[7] uio_in[6] uio_in[5] uio_in[4] uio_in[3] uio_in[2] uio_in[1] uio_in[0]
+ ui_in[7] ui_in[6] ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] uio_oe[7] uio_oe[6] uio_oe[5] uio_oe[4] uio_oe[3] uio_oe[2]
+ uio_oe[1] uio_oe[0] uio_out[7] uio_out[6] uio_out[5] uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0] uo_out[7] uo_out[6] uo_out[5]
+ uo_out[4] uo_out[3] uo_out[2] uo_out[1] uo_out[0]
*.ipin rst_n
*.ipin clk
*.ipin ena
*.ipin uio_in[7]
*.ipin ui_in[7]
*.opin uio_oe[7]
*.opin uio_oe[6]
*.opin uio_oe[5]
*.opin uio_oe[4]
*.opin uio_oe[3]
*.opin uio_oe[2]
*.opin uio_oe[1]
*.opin uio_oe[0]
*.opin uio_out[7]
*.opin uio_out[6]
*.opin uio_out[5]
*.opin uio_out[4]
*.opin uio_out[3]
*.opin uio_out[2]
*.opin uio_out[1]
*.opin uio_out[0]
*.opin uo_out[7]
*.opin uo_out[6]
*.opin uo_out[5]
*.opin uo_out[4]
*.opin uo_out[3]
*.opin uo_out[2]
*.opin uo_out[1]
*.opin uo_out[0]
*.iopin VPWR
*.iopin VGND
*.iopin VAPWR
*.ipin ui_in[6]
*.ipin ui_in[5]
*.ipin ui_in[4]
*.ipin ui_in[3]
*.ipin ui_in[2]
*.ipin ui_in[1]
*.ipin ui_in[0]
*.ipin uio_in[6]
*.ipin uio_in[5]
*.ipin uio_in[4]
*.ipin uio_in[3]
*.ipin uio_in[2]
*.ipin uio_in[1]
*.ipin uio_in[0]
XM4 CWBL ui_in[1] net2 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1 mm_ok=1
XM5 net1 net2 VGND VGND sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1 mm_ok=1
XM6 nRBL ui_in[2] net1 VGND sg13_lv_nmos w=0.9u l=0.13u ng=3 m=1 mm_ok=1
XM2 nRBL ui_in[3] VPWR VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 CWBL ui_in[2] ui_in[0] VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM7 ui_in[0] nReFr CWBL VGND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 CWBL nReFr uo_out[0] VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM8 uo_out[0] ui_in[2] CWBL VGND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM9 nReFr ui_in[2] VPWR VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM10 nReFr ui_in[2] VGND VGND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM11 uo_out[0] nRBL VPWR VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM12 uo_out[0] nRBL VGND VGND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
*connector(3,1) ?1 rst_n ?1 clk ?1 ena
*connector(8,1) ?1 uio_in[7] ?1 uio_in[6] ?1 uio_in[5] ?1 uio_in[4] ?1 uio_in[3] ?1 uio_in[2] ?1 uio_in[1] ?1 uio_in[0]
*connector(8,1) ?1 ui_in[7] ?1 ui_in[6] ?1 ui_in[5] ?1 ui_in[4] ?1 ui_in[3] ?1 ui_in[2] ?1 ui_in[1] ?1 ui_in[0]
*connector(8,1) ?1 uio_oe[7] ?1 uio_oe[6] ?1 uio_oe[5] ?1 uio_oe[4] ?1 uio_oe[3] ?1 uio_oe[2] ?1 uio_oe[1] ?1 uio_oe[0]
*connector(8,1) ?1 uio_out[7] ?1 uio_out[6] ?1 uio_out[5] ?1 uio_out[4] ?1 uio_out[3] ?1 uio_out[2] ?1 uio_out[1] ?1 uio_out[0]
*connector(8,1) ?1 uo_out[7] ?1 uo_out[6] ?1 uo_out[5] ?1 uo_out[4] ?1 uo_out[3] ?1 uo_out[2] ?1 uo_out[1] ?1 uo_out[0]
*connector(3,1) ?1 VPWR ?1 VAPWR ?1 VGND
XM13 VGND VPWR VGND VGND sg13_lv_pmos w=10.0u l=10.0u ng=1 m=1 mm_ok=1
XM14 VGND VAPWR VGND VGND sg13_lv_pmos w=10.0u l=10.0u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
